US08431604B2
1.0 g (4.56 mmol) N-[4-(4-fluorphenyl)-1H-imidazole-2-yl]acetamide were suspended in 30 ml 2 N HCl and 30 ml ethanol and were stirred at 80° C. for 2 hours. After removal of the solvent under vacuum, 0.97 g 4-(4-fluorphenyl)-1H-imidazole-2-aminium chloride were obtained, which was used in the following reaction without further purification.

reactant | N-[4-(4-fluorphenyl)-1H-imidazole-2-yl]acetamide | 4.56 mmol, 1.0 g | FC1=CC=C(C=C1)C=1N=C(NC1)NC(C)=O | C11H10FN3O
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | HCl | 2 N, 30 ml | Cl | ClH
product | 4-(4-fluorphenyl)-1H-imidazole-2-aminium chloride | 0.97 g | [Cl-].FC1=CC=C(C=C1)C=1N=C(NC1)[NH3+] | InChI=1S/C9H8FN3.ClH/c10-7-3-1-6(2-4-7)8-5-12-9(11)13-8;/h1-5H,(H3,11,12,13);1H
